US05563162
A mixture of 2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]toluene (303 mg), N-bromosuccinimide (150 mg), 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) (30 mg) and dichloromethane (6 ml) was heated under reflux for 5 hours. N-Bromosuccinimide (75 mg) was added therein and the mixture was heated under reflux for additional 3 hours. The reaction mixture was washed with saturated sodium bicarbonate solution twice and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from diethyl ether to give 3-bromomethyl-2,4-dichloro-N-methyl-N-(phthalimidoacetyl)aniline (102 mg) as crystals.

reactant | 2,6-dichloro-3-[N-(phthalimidoacetyl)-N-methylamino]toluene | 303 mg | ClC1=C(C(=CC=C1N(C)C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)Cl)C | C18H14Cl2N2O3
reactant | N-bromosuccinimide | 150 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis-(2,4-dimethyl-4-methoxyvaleronitrile) | 30 mg | N(=NC(C#N)(CC(C)(C)OC)C)C(C#N)(CC(C)(OC)C)C | C16H28N4O2
reactant | N-Bromosuccinimide | 75 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 3-bromomethyl-2,4-dichloro-N-methyl-N-(phthalimidoacetyl)aniline | 102 mg | BrCC=1C(=C(N(C(CN2C(C=3C(C2=O)=CC=CC3)=O)=O)C)C=CC1Cl)Cl | C18H13BrCl2N2O3
